US07622583B2
To a stirred solution of N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (280 mg, 0.566 mmol) in anhydrous THF (3 mL) was added 2 M isopropylmagnesiumchloride in THF (700 μL, 1.36 mmol) at 0° C. It was stirred at the same temperature for 20 minutes and then DMF (174μL, 1.36 mmol) was added in dropwise and the progress of the reaction was followed by LCMS. The reaction mixture was warmed to room temperature and stirred for 6 h. It was then quenched with saturated aqueous NH4Cl (2 mL), and extracted with EtOAc. The combined extracts were dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography to provide 4-Chloro-N-(5-chloro-2-formyl-pyridin-3-yl)-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide Mass spectrum m/z: 443.0 (M+H).

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.566 mmol, 280 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
reactant | isopropylmagnesiumchloride | 2 M | C(C)(C)[Mg]Cl
reactant | DMF | 1.36 mmol, 174μL | CN(C)C=O | C3H7NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 1.36 mmol, 700 μL | C1CCOC1 | C4H8O
product | 4-Chloro-N-(5-chloro-2-formyl-pyridin-3-yl)-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C=O)C(F)(F)F | C15H11Cl2F3N2O4S
